US04508717
Nicotinoyl chloride hydrochloride (7.12 g) is added to a solution of 3-(2-aminothiazol-5-yl)-2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (11.3 g) in tetrahydrofuran (300 cc), cooled to 3° C., and triethylamine (11.12 cc) is then added in the course of 10 minutes. The mixture is stirred for 1 hour at 3° C. and then for 2 hours while allowing the temperature to ri$e to 20° C. The reaction mixture is poured into ethyl acetate (400 cc) and washed with distilled water (3×120 cc) and a saturated solution of sodium chloride (100 cc). The organic phase is dried and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residue is crystallised from ethyl acetate (20 cc) to give 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-(2-nicotinoylaminothiazol-5-yl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene (7.4 g) in the form of a yellow solid.

reactant | Nicotinoyl chloride hydrochloride | 7.12 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | 3-(2-aminothiazol-5-yl)-2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 11.3 g | NC=1SC(=CN1)C1=C(N2C(C(C2SC1)NC(=O)OC(C)(C)C)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C28H28N4O5S2
reactant | triethylamine | 11.12 cc | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 400 cc | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 300 cc | O1CCCC1 | C4H8O
product | 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-(2-nicotinoylaminothiazol-5-yl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 7.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C1=CN=C(S1)NC(C1=CN=CC=C1)=O)NC(=O)OC(C)(C)C)=O | C34H31N5O6S2
